US05725797
Production of 1-(4-flurophenyl)-4-(trans-4-pentyl-4-silacyclohexyl)-3E-butene-1-yne
A mixture of 1-(4-fluorophenyl)-4-(trans-4-pentyl-4-silacyclohexyl)-1-butyne-3-ol 8.0 g (24 mmol), p-toluenesulfonic acid monohydrate 1.6 g, and benzene 200 ml was heated under reflux to remove the water and then subjected to a conventional post-treatment. The reaction mixture thus obtained was not only a mixture of trans- and cis-isomers, with respect to the silacyclohexane ring, but also a mixture of E- and Z-isomers, with respect to the double bond. Hence, the product was separated by chromatography to give 1.2 g of the desired product of the trans-E isomer (yield 15.9%).

reactant | 1-(4-fluorophenyl)-4-(trans-4-pentyl-4-silacyclohexyl)-1-butyne-3-ol | 24 mmol, 8.0 g | FC1=CC=C(C=C1)C#CC(C[C@@H]1CC[Si@H](CC1)CCCCC)O | C20H29FOSi
reactant | p-toluenesulfonic acid monohydrate | 1.6 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 1-(4-flurophenyl)-4-(trans-4-pentyl-4-silacyclohexyl)-3E-butene-1-yne | 1.2 g, yield 15.9% | FC1=CC=C(C=C1)C#C\C=C\[C@@H]1CC[Si@H](CC1)CCCCC | C20H27FSi
